US04752645
(C) 1,3,4,5-Tetrahydro-3-(methoxycarbonyl)-4-(4methoxyphenyl)-3-(2-propenyl)-2H-1-benzazepin-2-one
A suspension of α-(2-propenyl)-[2-(2-aminophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester (6.87 g, 17.28 mmol) in 44 ml of methanol with sodium methoxide solution (29.63 ml of a 25 weight percent solution, 129.6 mmol) was refluxed under argon overnight. Although the reaction mixture was nearly homogeneous under reflux, the reaction had not gone to completion (by TLC). After cooling to room temperature, 1M hydrochloric acid was added in several increments (total reaction volume was 200 ml). The crude product was collected by filtration, washed with 90/10 water/methanol, and recrystallized from methanol/water (2 crops) to yield 3.65 g of a white crystalline solid, melting point 175°-176.5° C.

reactant | α-(2-propenyl)-[2-(2-aminophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester | 17.28 mmol, 6.87 g | C(C=C)C(C(=O)OC)(C(=O)OC)C(CC1=C(C=CC=C1)N)C1=CC=C(C=C1)OC | C23H27NO5
reactant | sodium methoxide | C[O-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | methanol | 44 ml | CO | CH4O
product | 1,3,4,5-Tetrahydro-3-(methoxycarbonyl)-4-(4methoxyphenyl)-3-(2-propenyl)-2H-1-benzazepin-2-one | 3.65 g | COC(=O)C1(C(NC2=C(CC1C1=CC=C(C=C1)OC)C=CC=C2)=O)CC=C | C22H23NO4
